US07550459B2
4-Cyclopropylmethoxypiperidine-1-carboxylic acid t-butyl ester
A reaction flask was charged with 4-hydroxypiperidine-1-carboxylic acid t-butyl ester (10.05 g, 49.9 mmol) in dry DMF (50 mL) under Argon. NaH (60% in oil, 2.0 g, 50.0 mmol) was added in portions and the mixture was stirred at 50° for 1 h. The mixture was cooled to rt and bromomethylcyclopropane (6.752 g, 50.0 mmol) was added followed by stirring at rt for 20 h under Argon. The reaction mixture was quenched with water and the product extracted into EtOAc. The combined organic phases were dried over Na2SO4, filtered, and concentrated. The product was purified by flash column chromatography (SiO2; n-heptane/EtOAc 2:1) to give the title compound (6.809 g, 53%). 1H NMR (CDCl3) d 3.66-3.58 (m, 2H), 3.31-3.24 (m, 1H), 3.12 (d, 2H), 2.90-2.83 (m, 2H), 1.68-1.60 (m, 2), 1.38-1.30 (m, 2H), 1.28 (s, 9H), 0.91-0.82 (m, 1H), 0.38-0.33 (m, 2H), 0.04-0.00 (m, 2H); 13C NMR (CDCl3) d 154.8, 79.3, 74.4, 72.6, 41.4, 31.2, 28.4, 10.9, 3.0

reactant | 4-hydroxypiperidine-1-carboxylic acid t-butyl ester | 49.9 mmol, 10.05 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | NaH | 50.0 mmol, 2.0 g | [H-].[Na+]
reactant | bromomethylcyclopropane | 50.0 mmol, 6.752 g | BrCC1CC1 | C4H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-Cyclopropylmethoxypiperidine-1-carboxylic acid t-butyl ester | 6.809 g, 53% | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC1CC1 | C14H25NO3
